US08383619B2
Aqueous potassium hydroxide (50% w/v, 0.5 ml) was added to a suspension of methyl 2-hydroxy-5-isopropyl-4-methoxybenzoate (418 mg, 1.87 mmol) in methanol (4 ml) and water (2 ml) and the mixture was stirred and held at reflux for 4 hours. Upon cooling to room temperature the organic solvent was removed in vacuo and the residue acidified by the addition of 2M hydrochloric acid (10 ml). The solid material was collected by suction filtration, rinsed with water (2×10 ml) and sucked dry under reduced pressure to afford 4-hydroxy-5-isopropyl-2-methoxybenzoic acid (332 mg, 85%) as an off-white solid. 1H NMR (DMSO-d6) 11.88 (1H, br s), 10.11 (1H, s), 7.54 (1H, s), 6.51 (1H, s), 3.75 (3H, s), 3.11 (1H, m), 1.13 (6H, d). MS: [M+Na]+ 233.

reactant | potassium hydroxide | 0.5 ml | [OH-].[K+]
reactant | methyl 2-hydroxy-5-isopropyl-4-methoxybenzoate | 1.87 mmol, 418 mg | OC1=C(C(=O)OC)C=C(C(=C1)OC)C(C)C | C12H16O4
reactant | methanol | 4 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 4-hydroxy-5-isopropyl-2-methoxybenzoic acid | 332 mg, 85% | OC1=CC(=C(C(=O)O)C=C1C(C)C)OC | C11H14O4
